US06680333B2
7a) 4-(3-Phenylureido)-3-methoxybenzyl chloride
7.55 mL (103.4 mmol) of thionyl chloride were added dropwise to a suspension of 14.07 g (51.7 mmol) of 4-(3-phenylureido)-3-methoxybenzyl alcohol (prepared as described in Example 1, phenyl isocyanate being employed instead of 2-methylphenyl isocyanate) in 200 mL of dichloromethane. The mixture then was stirred at room temperature for 2 hours, allowed to stand overnight and poured onto 800 mL of heptane. The heptane was decanted off from the separated oil, the residue was suspended several times in heptane and in each case the heptane was decanted off. The residue was dissolved in 100 mL of dichloromethane and added dropwise to 800 mL of diisopropyl ether. The mixture was stirred for 1 hour with ice cooling, and the product was filtered off with suction, washed with diisopropyl ether and dried in vacuo.

reactant | thionyl chloride | 103.4 mmol, 7.55 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(3-phenylureido)-3-methoxybenzyl alcohol | 51.7 mmol, 14.07 g | C1(=CC=CC=C1)NC(NC1=C(C=C(CO)C=C1)OC)=O | C15H16N2O3
reactant | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | heptane | 800 mL | CCCCCCC | C7H16
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 4-(3-Phenylureido)-3-methoxybenzyl chloride | C1(=CC=CC=C1)NC(NC1=C(C=C(CCl)C=C1)OC)=O | C15H15ClN2O2
